* ============================================================
* Generic Single-Ended OpAmp Quiescent Power Testbench
*
* Standard DUT interface:
*
* .subckt DUT VINP VINN VOUT VDD VSS IBIAS
*
* Measurements:
*
*   Positive-rail supply current
*   Negative-rail supply current
*   Total quiescent supply power
*
* Test condition:
*
*   No dynamic input
*   No resistive output load
*   Unity-gain follower
*
* ============================================================


* ============================================================
* PDK / DUT
* ============================================================

.lib "{{PDK_PATH}}" {{CORNER}}

.include "{{DUT_PATH}}"


* ============================================================
* Temperature
* ============================================================

.temp {{TEMP}}


* ============================================================
* Power Supplies
* ============================================================

VDD_SRC VDD 0 DC {{VDD}}

VSS_SRC VSS 0 DC {{VSS}}


* ============================================================
* Bias Current
*
* Positive IBIAS flows:
*
*   VDD -> IBIAS -> DUT
*
* Since IBIAS is supplied from the VDD rail,
* its current is included in the current measured
* through VDD_SRC.
* ============================================================

IBIAS_SRC VDD IBIAS DC {{IBIAS}}


* ============================================================
* Input / Operating Point
*
* DUT is configured as a unity-gain follower:
*
*   VINP = VCM
*   VINN = VOUT
*
* This keeps the amplifier in its normal linear
* operating region at the specified common-mode level.
* ============================================================

VINP_SRC INP 0 DC {{VCM}}


* ============================================================
* DUT
* ============================================================

XDUT
+ INP
+ OUT
+ OUT
+ VDD
+ VSS
+ IBIAS
+ DUT


* ============================================================
* Operating Point Analysis
* ============================================================

.op


* ============================================================
* Control
* ============================================================

.control

run

set wr_vecnames
option numdgt=15


* ============================================================
* Supply Currents
*
* ngspice defines current through a voltage source
* from its positive terminal to its negative terminal.
*
* For the positive supply, a source delivering current
* normally has negative i(VDD_SRC).
* ============================================================

let idd_a = -i(VDD_SRC)

let iss_a = i(VSS_SRC)

let idd_ua = idd_a * 1e6

let iss_ua = iss_a * 1e6


* ============================================================
* Supply Power
*
* Power delivered by an independent voltage source:
*
*   Psource = -V * I
*
* This form also works for a negative VSS supply.
*
* Example:
*
*   VDD = +1.8 V
*   VSS = -1.8 V
*
* Both supply contributions become positive when
* the sources deliver power to the DUT.
* ============================================================

let p_vdd_w = -v(VDD) * i(VDD_SRC)

let p_vss_w = -v(VSS) * i(VSS_SRC)

let power_w = p_vdd_w + p_vss_w

let p_vdd_uw = p_vdd_w * 1e6

let p_vss_uw = p_vss_w * 1e6

let power_uw = power_w * 1e6


* ============================================================
* Output
* ============================================================

echo ========================================
echo QUIESCENT POWER
echo ========================================

print v(INP)
print v(OUT)

print idd_a
print iss_a

print idd_ua
print iss_ua

print p_vdd_uw
print p_vss_uw

print power_uw


* ============================================================
* Save Results
* ============================================================

wrdata "{{OUTPUT_PATH}}"
+ idd_ua
+ iss_ua
+ p_vdd_uw
+ p_vss_uw
+ power_uw


quit

.endc


.end